US07253165B2
Synthesis of benzyl-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-amine (Scheme III, Compound 1b)
Mix 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole (150 mg, 0.43 mmol), benzylamine (92.2 mg, 0.861 mmol), potassium carbonate(130.6 mg, 0.95 mmol, 2.2 equivalents), potassium iodide (7.2 mg, 0.043 mmol) and 4%-5% aqueous acetonitrile (4-6 mL). Under a nitrogen atmosphere, heat (70°-75° C.) overnight. Dilute reaction mixture with ethyl acetate, filter to remove the solids and concentrate (in vacuo). Purify the crude reaction mixture by column (silica) chromatography using a Waters Sep-Pak 10 g cartridge eluted with ethyl acetate to give the title compound as a solid (89.23 mg, 55.1% Yield). Purity by LC/MS=95%, [M+H]+=377.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | 0.43 mmol, 150 mg | BrCCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C16H13BrFNO2
reactant | benzylamine | 0.861 mmol, 92.2 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 0.95 mmol, 130.6 mg, 2.2 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.043 mmol, 7.2 mg | [I-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 4-6 mL | C(C)#N | C2H3N
product | benzyl-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-amine | 89.23 mg, 55.1% Yield | C(C1=CC=CC=C1)NCCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C23H21FN2O2
